US07247625B2
To a stirred suspension of 4,4-diethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one (6.00 g, 29.20 mmol) in a mixture of glacial acetic acid (25 mL) and concentrated sulfuric acid (25 mL) was slowly added concentrated nitric acid (5 mL). After stirring 10 minutes, the reaction mixture was quenched with a chilled brine solution (100 mL) and ice. A solid precipitated, which was collected on a filter and washed with water. After drying in vacuo, 4,4-diethyl-6-nitro-1,4-dihydro-2H-3,1-benzoxazin-2-one was obtained as a white solid (5.02 g, 69%). 1H NMR (DMSO-d6): δ 10.85 (s, 1H), 8.20 (dd, J=8.8, 2.5 Hz, 1H), 8.06 (d, J=2.4 Hz, 1H), 7.06 (d, J=8.8 Hz, 1H), 2.14 (m, 4H), 0.79 (t, J=7.3 Hz, 6H); MS (ESI) m/z 251 ([M+H]+); MS (ESI) m/z 249 ([M−H]−); Anal. calcd for C12H14N2O4: C, 57.59; H, 5.64; N, 1.19. Found: C, 57.44; H, 5.57; N, 11.16.

reactant | 4,4-diethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 29.20 mmol, 6.00 g | C(C)C1(C2=C(NC(O1)=O)C=CC=C2)CC | C12H15NO2
reactant | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 4,4-diethyl-6-nitro-1,4-dihydro-2H-3,1-benzoxazin-2-one | C(C)C1(OC(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)CC | C12H14N2O4
